US06455528B1
Synthesis of N-(4-((4-(4,6-bis(Dimethylamino)-pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide
A solution of N-(4-chloromethylphenylmethyl)acetamide (0.7 g), 1-(4,6-bis(dimethylamino)pyrimidin-2-yl)piperazine (0.9 g) and potassium carbonate (0.7 g) in dimethylformamide (10 ml) was stirred at 80° C. for 6 hr. The reaction mixture was poured into water (100 ml) and extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated to give a brown solid (1.6 g). The obtained brown solid was crystallized from ethyl acetate/ethanol (2:1, 30 ml) to give the title compound (0.9 g) as pale-yellow crystals.

reactant | N-(4-chloromethylphenylmethyl)acetamide | 0.7 g | ClCC1=CC=C(C=C1)CNC(C)=O | C10H12ClNO
reactant | 1-(4,6-bis(dimethylamino)pyrimidin-2-yl)piperazine | 0.9 g | CN(C1=NC(=NC(=C1)N(C)C)N1CCNCC1)C | C12H22N6
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(4-((4-(4,6-bis(Dimethylamino)-pyrimidin-2-yl)piperazin-1-yl)methyl)phenylmethyl)acetamide | 1.6 g | CN(C1=NC(=NC(=C1)N(C)C)N1CCN(CC1)CC1=CC=C(C=C1)CNC(C)=O)C | C22H33N7O
